US09108999B2
Preparation of intermediate chiral benzoic acid (3R,4R,5R)-5-(2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-4-fluoro-4-methyl-2-methylene-tetrahydro-furan-3-yl ester
To a mixture of chiral 1-((2R,3R,4R)-3-fluoro-4-hydroxy-3-methyl-5-methylene-tetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione (18.3 g, 75.6 mmol) and DMAP (27.7 g, 227 mmol) in anhydrous THF (900 mL) at 0° C. was added BzCl (15.9 g, 113.4 mmol) dropwise. The reaction mixture was stirred at 0° C. for 0.5 h, then sat. NaHCO3 was added to quench the reaction. The mixture was extracted with EA (300 mL×3). The combined organic extract was washed with H2O, brine, dried over Na2SO4, and concentrated. The residue was purified by silica gel chromatography column (DCM:MeOH=160:1 to 120:1) to give the title compound as a white solid (17 g, 65%).

reactant | 1-((2R,3R,4R)-3-fluoro-4-hydroxy-3-methyl-5-methylene-tetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione | 75.6 mmol, 18.3 g | F[C@]1([C@@H](OC([C@H]1O)=C)N1C(NC(C=C1)=O)=O)C | C10H11FN2O4
reactant | BzCl | 113.4 mmol, 15.9 g | C(=O)(C1=CC=CC=C1)Cl | C7H5ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | DMAP | 227 mmol, 27.7 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 900 mL | C1CCOC1 | C4H8O
product | benzoic acid (3R,4R,5R)-5-(2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-4-fluoro-4-methyl-2-methylene-tetrahydro-furan-3-yl ester | 17 g, 65% | O=C1N(C=CC(N1)=O)[C@H]1[C@]([C@@H](C(O1)=C)OC(C1=CC=CC=C1)=O)(C)F | C17H15FN2O5
